### PR TITLE
[Merged by Bors] - refactor: replace `IsWellFounded` with `WellFounded`

### PR DESCRIPTION
**Pull request by vihdzp**
This PR is an attempt to deprecate IsWellFounded. The reason it that it is entirely equivalent to WellFounded, with the only difference being that IsWellFounded is a class. This PR instead marks WellFounded as a class.

This PR has been re-opened from #35602, with permission.

---

A lot of this diff is either find+replace changes, or changes in indentation.

- [x] depends on: #42359
- [x] depends on: #42361
- [x] depends on: #42368
- [x] depends on: #42422

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/EuclideanDomain/Defs.lean [hunk 1]
```diff
@@ -107,6 +107,8 @@ attribute [instance 100] EuclideanDomain.toCommRing
 
 namespace EuclideanDomain
 
+attribute [instance] r_wellFounded
```
Comment (YaelDillies) [inline Mathlib/Algebra/EuclideanDomain/Defs.lean]: Can you also change the field to `[r_wellFounded : WellFounded r]`?

File: Mathlib/AlgebraicTopology/SimplicialSet/AnodyneExtensions/Pairing.lean [hunk 2]
```diff
@@ -104,17 +104,14 @@ lemma AncestralRel.dim_le [P.IsProper] {x y : P.II} (hxy : P.AncestralRel x y) :
...
 is well founded. -/
 class IsRegular extends P.IsProper where
-  wf : WellFounded P.AncestralRel
+  [wf : WellFounded P.AncestralRel]
 
 section
 
 variable [P.IsRegular]
 
 lemma wf : WellFounded P.AncestralRel := IsRegular.wf
```
Comment (YaelDillies) [inline Mathlib/AlgebraicTopology/SimplicialSet/AnodyneExtensions/Pairing.lean:113]: Instance?

File: Mathlib/Data/Fin/Tuple/BubbleSortInduction.lean [hunk 3]
```diff
@@ -42,7 +42,7 @@ theorem bubble_sort_induction' {n : ℕ} {α : Type*} [LinearOrder α] {f : Fin
     P (f ∘ sort f) := by
   let := @Preorder.lift _ (Lex (Fin n → α)) _ fun σ : Equiv.Perm (Fin n) => toLex (f ∘ σ)
   refine
-    @WellFounded.induction_bot' _ _ _ (IsWellFounded.wf : WellFounded (· < ·))
+    @WellFounded.induction_bot' _ _ _ (inferInstance : WellFoundedLT _)
       (Equiv.refl _) (sort f) P (fun σ => f ∘ σ) (fun σ hσ hfσ => ?_) hf
```
Comment (YaelDillies) [inline Mathlib/Data/Fin/Tuple/BubbleSortInduction.lean:46]: Do we still need the `@`?

File: Mathlib/Data/Finset/Dedup.lean [hunk 4]
```diff
@@ -78,7 +78,7 @@ theorem toFinset_ssubset : s.toFinset ⊂ t.toFinset ↔ s ⊂ t := by
 theorem toFinset_dedup (m : Multiset α) : m.dedup.toFinset = m.toFinset := by
   simp_rw [toFinset, dedup_idem]
 
-instance isWellFounded_ssubset : IsWellFounded (Multiset β) (· ⊂ ·) := by
+instance isWellFounded_ssubset : @WellFounded (Multiset β) (· ⊂ ·) := by
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Dedup.lean:85]: Maybe `WellFounded` should have the type argument explicit?

File: Mathlib/Data/List/Chain.lean [hunk 5]
```diff
@@ -516,10 +516,6 @@ theorem Acc.list_chain' {l : List.chains r} (acc : ∀ a ∈ l.val.head?, Acc r
       · apply ihl ⟨m, (List.isChain_cons.1 hm).2⟩ hr
 
 /-- If `r` is well-founded, the lexicographic order on `r`-decreasing chains is also. -/
-theorem WellFounded.list_chain' (hwf : WellFounded r) :
+instance WellFounded.list_chain' [hwf : WellFounded r] :
```
Comment (YaelDillies) [inline Mathlib/Data/List/Chain.lean]:
```suggestion
instance WellFounded.list_chain' [WellFounded r] :
```
would be better, we usually don't name instance arguments

File: Mathlib/Data/Prod/Lex.lean [hunk 6]
```diff
@@ -84,10 +84,10 @@ lemma lt_iff [LT α] [LT β] {x y : α ×ₗ β} :
   toLex_lt_toLex
 
 instance [LT α] [LT β] [WellFoundedLT α] [WellFoundedLT β] : WellFoundedLT (α ×ₗ β) :=
-  instIsWellFounded
+  instWellFounded
```
Comment (YaelDillies) [inline Mathlib/Data/Prod/Lex.lean:87]:
```suggestion
  inferInstance
```
?

File: Mathlib/AlgebraicTopology/SimplicialSet/AnodyneExtensions/Pairing.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/AlgebraicTopology/SimplicialSet/AnodyneExtensions/Pairing.lean:113]: This lemma is redundant, so I'll just deprecate it.

File: Mathlib/Data/Fin/Tuple/BubbleSortInduction.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/Data/Fin/Tuple/BubbleSortInduction.lean:46]: No, but I've moved that change to #43074 since it's a bit larger.

File: Mathlib/Data/Finset/Dedup.lean (hunk 4 above)
Comment (vihdzp) [reply Mathlib/Data/Finset/Dedup.lean:85]: I wouldn't be opposed, but that's a change that would have to be made in core...

File: Mathlib/Data/List/Chain.lean (hunk 5 above)
Comment (vihdzp) [reply Mathlib/Data/List/Chain.lean]: I think the alternative of using `WellFounded.apply inferInstance` within the proof is uglier.

File: Mathlib/Data/Prod/Lex.lean (hunk 6 above)
Comment (vihdzp) [reply Mathlib/Data/Prod/Lex.lean:87]: The signatures are def-eq but syntactically a bit different, so this doesn't work.

File: Mathlib/Data/Rel.lean [hunk 7]
```diff
@@ -539,7 +539,11 @@ instance {R : α → α → Prop} [Std.Irrefl R] : SetRel.IsIrrefl {(a, b) | R a
 variable (R) in
 /-- A relation `R` on a type `α` is well-founded if all elements of `α` are accessible within `R`.
 -/
-abbrev IsWellFounded : Prop := WellFounded (· ~[R] ·)
+abbrev WellFounded : Prop := _root_.WellFounded (· ~[R] ·)
```
Comment (SnirBroshi) [inline Mathlib/Data/Rel.lean]: Can this stay `IsWellFounded`? This matches all the other `SetRel` `Prop`s, such as `IsIrrefl`.

File: Mathlib/Data/List/Chain.lean (hunk 5 above)
Comment (SnirBroshi) [reply Mathlib/Data/List/Chain.lean]: `‹WellFounded r›.apply`?

File: Mathlib/Data/List/Cycle.lean [hunk 8]
```diff
@@ -897,7 +897,7 @@ theorem Chain.eq_nil_of_irrefl [IsTrans α r] [Std.Irrefl r] (h : Chain r s) : s
     have ha : a ∈ a :: l := mem_cons_self
     exact (irrefl_of r a <| chain_iff_pairwise.1 h a ha a ha).elim
 
-theorem Chain.eq_nil_of_well_founded [IsWellFounded α r] (h : Chain r s) : s = Cycle.nil :=
+theorem Chain.eq_nil_of_well_founded [WellFounded r] (h : Chain r s) : s = Cycle.nil :=
   Chain.eq_nil_of_irrefl <| h.imp fun _ _ => Relation.TransGen.single
```
Comment (SnirBroshi) [inline Mathlib/Data/List/Cycle.lean]:
```suggestion
theorem Chain.eq_nil_of_wellFounded [WellFounded r] (h : Chain r s) : s = Cycle.nil :=
  Chain.eq_nil_of_irrefl <| h.imp fun _ _ => Relation.TransGen.single

@[deprecated (since := "2026-08-23")]
alias Chain.eq_nil_of_well_founded := Chain.eq_nil_of_wellFounded
```

File: Mathlib/Data/List/Chain.lean (hunk 5 above)
Comment (vihdzp) [reply Mathlib/Data/List/Chain.lean]: I think that's uglier, but I don't want to block on this.

File: Mathlib/AlgebraicTopology/SimplicialSet/AnodyneExtensions/Pairing.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/AlgebraicTopology/SimplicialSet/AnodyneExtensions/Pairing.lean:113]: Actually, I've decided against this. The code uses `P.wf` to refer to this well-foundedness lemma explicitly in a few places. We could replace it by `IsRegular.wf (P := P)` or `inferInstanceAs (WellFounded P.AncestralRel)` but I think that's just unnecessarily wordy. In any case this can be a followup PR if so desired.

File: Mathlib/Order/RelClasses.lean [hunk 9]
```diff
@@ -150,15 +150,20 @@ instance InvImage.asymm [Std.Asymm r] (f : β → α) : Std.Asymm (InvImage r f)
 
 /-! ### Well-order -/
 
+-- TODO: upstream this attribute to core?
+attribute [class] WellFounded
```
Comment (ocfnash) [inline Mathlib/Order/RelClasses.lean:154]: Just calling out this key line for anyone else examining this in the future.

**Review by ocfnash — APPROVED** [review]
Thanks!

bors merge
